US08044052B2
tert-Butyl 4-(fluoro(3-(5-(trifluoromethyl)pyridin-2-yloxy)phenyl)methylene)piperidine-1-carboxylate
NaH (166 mg, 6.92 mmol) under a N2 atmosphere was washed with n-pentane and dried blowing N2 gas. THF (5 mL) was added and the mixture was cooled to 0° C. Diethyl fluoro(3-(5-(trifluoromethyl)pyridin-2-yloxy)phenyl)methylphosphonate (940 mg, 2.3 mmol) was added as a solution in THF dropwise and the mixture was stirred for 30 min. tert-Butyl 4-oxopiperidine-1-carboxylate as a solution in THF was added dropwise and the reaction was stirred for 1 h. Excess NaH was quenched with water at 0° C. and the mixture was extracted with ethyl acetate. The organic layer was dried and concentrated to dryness. The residue was purified by column chromatography to give the pure title compound (600 mg). 1H NMR (500 MHz, CDCl3): δ 1.4 (s, 9H), 2.0 (m, 2H), 2.4 (m, 2H), 3.4 (m, 2H), 3.5 (m, 2H), 7.0 (d, 1H, J=8.5 Hz), 7.1-7.2 (m, 4H), 7.4 (t, 1H, J=8 Hz), 7.9 (d, 1H, J=8.5 Hz), 8.4 (s, 1H).

reactant | NaH | 6.92 mmol, 166 mg | [H-].[Na+]
reactant | Diethyl fluoro(3-(5-(trifluoromethyl)pyridin-2-yloxy)phenyl)methylphosphonate | 2.3 mmol, 940 mg | FC(C1=CC(=CC=C1)OC1=NC=C(C=C1)C(F)(F)F)P(OCC)(OCC)=O | C17H18F4NO4P
reactant | tert-Butyl 4-oxopiperidine-1-carboxylate | O=C1CCN(CC1)C(=O)OC(C)(C)C | C10H17NO3
solvent | n-pentane | CCCCC | C5H12
solvent | THF | C1CCOC1 | C4H8O
product | tert-Butyl 4-(fluoro(3-(5-(trifluoromethyl)pyridin-2-yloxy)phenyl)methylene)piperidine-1-carboxylate | 600 mg | FC(=C1CCN(CC1)C(=O)OC(C)(C)C)C1=CC(=CC=C1)OC1=NC=C(C=C1)C(F)(F)F | C23H24F4N2O3
